Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with diagnosis of DVT in R leg 2 weeks ago, started on 
Eliquis at that time, now presenting with chest pain and 
increase R leg discomfort. Chest pain has been ongoing for about 
one week (one week into starting Eliquis). Today it started at 
10AM today without any precipitant. Describes pain as substernal 
chest pressure, worsens with movement and lying down. Denies 
pleuritic component. Denies ever having SOB. Pain is ___. 
Gradual onset. Never had this pain before. Has not taken 
anything for the pain. He has no missed doses of Eliquis- risk 
for blood clot was air travel to and from ___ and 
family history on father's side of venous thrombosis. His 
initial 02 sat here was 94% - subsequent were 99-100% though. 

[x] CTA: Positive for multiple RLL subsegmental pulmonary emboli 
which appear subacute or chronic. No right heart strain.
[x] Heparin gtt (no bolus given Eliquis this AM) started
[x] Tramadol 50mg x1
[x] 1x trop negative

In the ED, initial vitals were: 
98.1 55 124/100 14 98% RA 

Labs showed  INR 1.2
neg trop and Cr 1.2
 
On arrival to the floor, patient collaborates the above story. 
He has no palpitations, fevers, chills, cough, shortness of 
breath, chest pain at rest or leg pain currently. He felt the 
tramadol was helpful.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
Depression
Deep vein thrombosis
 
Social History:
___
Family History:
Venous thrombosis on his father's side 
 
Physical ___:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: 98.3 PO ___ 16 98% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL EXAM
========================
Vitals: 98.0 127/78 58 18 98% RA Ambulatory O2Sat 96-98%
General: Alert, oriented, no apparent distress  
HEENT: EOMI, PERRL, NC/AT
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

 
Pertinent Results:
PERTINENT LABS
===============
___ 07:53PM BLOOD WBC-8.0 RBC-4.81 Hgb-14.3 Hct-41.7 MCV-87 
MCH-29.7 MCHC-34.3 RDW-12.5 RDWSD-40.0 Plt ___
___ 07:53PM BLOOD Neuts-74.1* Lymphs-17.1* Monos-6.5 
Eos-1.5 Baso-0.5 Im ___ AbsNeut-5.92 AbsLymp-1.37 
AbsMono-0.52 AbsEos-0.12 AbsBaso-0.04
___ 07:53PM BLOOD Glucose-77 UreaN-14 Creat-1.2 Na-141 
K-3.8 Cl-103 HCO3-27 AnGap-15
___ 07:47AM BLOOD Glucose-92 UreaN-10 Creat-1.1 Na-141 
K-3.5 Cl-99 HCO3-25 AnGap-21*

IMAGING
========
CTA Chest ___:  
FINDINGS:  
  
The pulmonary vessels are opacified to the subsegmental level. 
There are 
central filling defects in multiple subsegmental right lower 
lobe pulmonary arteries (3:116, 111, 100) consistent with 
pulmonary emboli. Morphology suggests chronic or subacute 
chronicity rather than acute pulmonary emboli.  
There is no CT evidence of right heart strain such as 
straightening of the 
intraventricular septum or reflux of contrast into the hepatic 
veins. The 
great vessels are normal in caliber. There is no pericardial 
effusion. 
  
The airways are patent to the subsegmental level. A 3 mm 
ground-glass opacity in superior segment of the right lower lobe 
is noted (03:37). There is no focal consolidation, pleural 
effusion, or pneumothorax. There is no axillary, 
supraclavicular, mediastinal, or hilar lymphadenopathy. Residual 
thymic tissue is noted in the anterior mediastinum. 
  
This study is not optimized for evaluation of infra 
diaphragmatic structures.  
Within these limitations, other than a hypodensity at the liver 
dome likely representing a simple hepatic cyst, the visualized 
upper abdomen is 
unremarkable. 
  
There is no focal lytic or sclerotic osseous lesion suggestive 
of neoplasm or infection. 
  
IMPRESSION:  
Subsegmental pulmonary emboli in the right lower lobe 
demonstrate morphology but is more consistent with subacute or 
chronic emboli rather than acute pulmonary emboli. No CT 
evidence of right heart strain. 
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with history significant for 
depression and recent DVT diagnosed on ___ who presented with 
episodes of intermittent chest pain since ___ with CTA showing 
multiple subsegmental pulmonary emboli. He was started on 
eliquis on ___ after receiving a dose of lovenox on ___ and 
presented to the ED on ___. He was presumed to have pulmonary 
emboli at that point and treatment was not changed as he was on 
adequate therapy with eliquis. He presented to the ED because he 
was still having episodes of chest pain so CTA was performed 
which confirmed the presence of pulmonary emboli. He had a 
hypercoagulability workup started given some concern that these 
emboli occurred through treatment but review of the chart and 
history with the patient revealed that they were likely there 
prior to initiation of therapy. His vital signs were normal and 
stable with good oxygenation on ambulation and he had no 
exertional chest pain. EKG was unchanged from that on ___. 
His chest pain was treated with tramadol and Tylenol and he 
improved and was discharged back on eliquis to complete therapy 
for 6 months. 

#Deep vein thrombosis with pulmonary embolism: Patient with DVT 
diagnosed on ___ with chest pain and multiple small emboli on 
CTA. Likely provoked given plane ride. Family hx of VT present. 
A hypercoag workup was started and pending at time of discharge 
but chart review and further history revealed emboli were likely 
there prior to initiation of therapy and seems that DVT was 
provoked. Patient was discharged back on eliquis therapy to 
complete for 6 months.

TRANSITIONAL ISSUES
===================
CODE: Full, presumed
CONTACT/HCP: ___ 
 Relationship: OTHER 
 Phone: ___ 
[ ]Hypercoag workup pending: anticardiolipin ab, lupus 
anticoagulant; beta 2 glycoprotein ordered. Was unable to order 
factor V ___ as inpatient
[ ] Eliquis therapy to be continued at 5mg PO BID for 6 months, 
consider trial off afterwards vs. lifelong therapy if considered 
unprovoked or hypercoag workup significant
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q4H 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*90 Tablet Refills:*0 
2.  TraMADol 50 mg PO Q4H 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*42 Tablet Refills:*0 
3.  Apixaban 5 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Pulmonary embolism
Deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

    You came to the hospital because you were experiencing chest 
pain since you were diagnosed with a blood clot in your leg. You 
were found to have small blood clots in your lung causing your 
pain. 
    You were treated with pain medications (tramadol and 
Tylenol) and your pain improved. You should continue taking 
these medications as needed for your pain. You can alternate 
taking each one to help keep your pain under control. It will 
likely take a few weeks for your pain to resolve. You should 
also continue taking the eliquis you were prescribed to prevent 
further clots from forming.
    The following are symptoms to look out for to seek medical 
re-evaluation: Worsening or more frequent chest pain that does 
not respond to medicines. Feeling like your heart is racing or 
significant shortness of breath. Fevers or chills.
     It is important that you follow up with your primary care 
doctor within the next week and continue to take your 
medications as directed.

It was a pleasure taking care of you, we wish you the best!
Your ___ Care Team
 
 
Followup Instructions:
___